US09029544B2
(5) Ethyl 2-ethyl-4-hydroxy-7,7-dimethyl-5-oxo-5,6,7,8-tetrahydroquinoline-3-carboxylate
Obtained by starting from ethyl 2-chloro-4-hydroxy-7,7-dimethyl-5-oxo-5,6,7,8-tetrahydroquinoline-3-carboxylate. Diethylzinc (1 M in hexane) is used instead of isopropyl-zinc-bromide.

reactant | ethyl 2-chloro-4-hydroxy-7,7-dimethyl-5-oxo-5,6,7,8-tetrahydroquinoline-3-carboxylate | ClC1=NC=2CC(CC(C2C(=C1C(=O)OCC)O)=O)(C)C | C14H16ClNO4
reactant | Diethylzinc | 1 M | C(C)[Zn]CC
product | Ethyl 2-ethyl-4-hydroxy-7,7-dimethyl-5-oxo-5,6,7,8-tetrahydroquinoline-3-carboxylate | C(C)C1=NC=2CC(CC(C2C(=C1C(=O)OCC)O)=O)(C)C | C16H21NO4
